data/polar.json
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH3:1][C:9]([CH3:2])([CH3:3])[c:27]1[cH:17][cH:30][cH:18][c:28]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:21]1[N:29]1[C:13](=[CH:48][c:49]2[cH:40][cH:15][c:20]([N+:57](=[O:12])[O-:22])[cH:16][cH:41]2)[N:11]([c:23]2[c:37]([C:7]([CH3:42])([CH3:43])[CH3:44])[cH:31][cH:51][cH:32][c:38]2[C:8]([CH3:45])([CH3:46])[CH3:47])[N:55]=[C:39]1[c:19]1[cH:52][cH:24][cH:50][cH:25][cH:53]1.[CH:14](=[O+:56][CH3:54])[c:58]1[cH:35][cH:33][cH:26][cH:34][cH:36]1>>[CH3:1][C:9]([CH3:2])([CH3:3])[c:27]1[cH:17][cH:30][cH:18][c:28]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:21]1-[n:29]1[c:13]([CH:48]([CH:14]([O:56][CH3:54])[c:58]2[cH:35][cH:33][cH:26][cH:34][cH:36]2)[c:49]2[cH:40][cH:15][c:20]([N+:57](=[O:12])[O-:22])[cH:16][cH:41]2)[n+:11](-[c:23]2[c:37]([C:7]([CH3:42])([CH3:43])[CH3:44])[cH:31][cH:51][cH:32][c:38]2[C:8]([CH3:45])([CH3:46])[CH3:47])[n:55][c:39]1-[c:19]1[cH:52][cH:24][cH:50][cH:25][cH:53]1", "epd": [["LP-/Pi+", [11], [11, 13]], ["Pi-/Sigma+", [13, 48], [14, 48]], ["Pi-/LP+", [14, 56], [56]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:4]1([S:19](=[O:25])(=[O:26])[CH-:31][c:11]2[cH:6][cH:23][cH:27][cH:24][cH:7]2)[cH:12][cH:17][cH:5][cH:18][cH:13]1.[cH:1]1[c:8]([N+:20](=[O:14])[O-:29])[cH:2][c:9]([N+:21](=[O:15])[O-:28])[cH:3][c:10]1[N+:22](=[O:16])[O-:30]>>[CH:1]1([CH:31]([c:11]2[cH:6][cH:23][cH:27][cH:24][cH:7]2)[S:19]([c:4]2[cH:12][cH:17][cH:5][cH:18][cH:13]2)(=[O:25])=[O:26])[C:8](=[N+:20]([O-:14])[O-:29])[CH:2]=[C:9]([N+:21](=[O:15])[O-:28])[CH:3]=[C:10]1[N+:22](=[O:16])[O-:30]", "epd": [["LP-/Sigma+", [31], [31, 1]], ["Pi-/Pi+", [1, 8], [8, 20]], ["Pi-/LP+", [20, 14], [14]]]}
{"reaction_name": "Dihydropyrimidinone condensation sequence", "rsmi": "[CH3:1][C:2](=[O:3])[C:4]([H:21])([H:22])[C:5](=[O:6])[O:7][CH3:8].[cH:9]1[cH:10][cH:11][cH:12][cH:13][c:14]1[C:15]([H:28])=[O:16].[N:17]([H:23])([H:24])[C:18](=[O:19])[N:20]([H:25])[H:26].[H+:27]>>[CH3:8][O:7][C:5](=[O:6])[C:4]1=[C:2]([CH3:1])[N:17]([H:23])[C:18](=[O:19])[N:20]([H:25])[C:15]([H:28])([c:14]2[cH:13][cH:12][cH:11][cH:10][cH:9]2)1.[O:3]([H:21])[H:24].[O:16]([H:22])[H:26].[H+:27]", "epd": [["LP-/Sigma+", [17], [2, 17]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 24]], ["Sigma-/LP+", [17, 24], [17]], ["LP-/Sigma+", [20], [15, 20]], ["Sigma-/LP+", [15, 16], [16]], ["LP-/Sigma+", [16], [16, 26]], ["Sigma-/LP+", [20, 26], [20]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 21]], ["Sigma-/LP+", [4, 21], [4]], ["LP-/Pi+", [4], [2, 4]], ["Pi-/LP+", [15, 16], [16]], ["LP-/Sigma+", [16], [16, 22]], ["Sigma-/LP+", [4, 22], [4]], ["LP-/Sigma+", [4], [4, 15]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[O-:4][N+:16]([O-:5])=[C:12]1[CH:11]=[CH:19][CH:10]=[CH:13][C:17]1=[O:9].[cH:1]1[cH:2][cH:14][c:8]([N+:6](=[CH2:7])[CH3:18])[cH:15][cH:3]1>>[cH:1]1[cH:2][cH:14][c:8]([N:6]([CH2:7][O:9][c:17]2[c:12]([N+:16](=[O:4])[O-:5])[cH:11][cH:19][cH:10][cH:13]2)[CH3:18])[cH:15][cH:3]1", "epd": [["LP-/Pi+", [4], [16, 4]], ["Pi-/Pi+", [12, 16], [17, 12]], ["Pi-/Sigma+", [9, 17], [9, 7]], ["Pi-/LP+", [7, 6], [6]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:2]([N+:11]12[CH2:17][CH2:31][N+:16]([F:8])([CH2:32][CH2:18]1)[CH2:33][CH2:19]2)[Cl:34].[cH:1]1[c:6]([CH3:22])[s:35][c:5]([B-:7]2([c:36]3[cH:23][c:9]([C:3]([F:25])([F:26])[F:27])[cH:13][c:10]([C:4]([F:28])([F:29])[F:30])[cH:24]3)[O:20][CH2:14][CH2:15][O:21]2)[cH:12]1>>[C:3]([c:9]1[cH:13][c:10]([C:4]([F:28])([F:29])[F:30])[cH:24][c:36]([B-:7]2=[O+:20][CH2:14][CH2:15][O:21]2)[cH:23]1)([F:25])([F:26])[F:27].[CH2:2]([N+:11]12[CH2:17][CH2:31][N:16]([CH2:32][CH2:18]1)[CH2:33][CH2:19]2)[Cl:34].[cH:1]1[c:6]([CH3:22])[s:35][c:5]([F:8])[cH:12]1", "epd": [["LP-/Pi+", [20], [7, 20]], ["Sigma-/Sigma+", [5, 7], [5, 8]], ["Sigma-/LP+", [8, 16], [16]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[c:3]1([P:37]([c:4]2[cH:18][cH:26][c:41]([N:13]([CH3:33])[CH3:34])[cH:27][cH:19]2)[c:5]2[cH:20][cH:28][c:42]([N:14]([CH3:35])[CH3:36])[cH:29][cH:21]2)[cH:17][cH:25][c:40]([N:12]([CH3:31])[CH3:32])[cH:30][cH:22]1.[cH:1]1[cH:10][cH:2][c:6]2[c:11]([o+:7][c:9](-[c:39]3[cH:23][cH:15][cH:43][cH:16][cH:24]3)[cH:8][cH:38]2)[cH:44]1>>[cH:1]1[cH:10][cH:2][c:6]2[c:11]([cH:44]1)[O:7][C:9]([c:39]1[cH:23][cH:15][cH:43][cH:16][cH:24]1)=[CH:8][CH:38]2[P+:37]([c:3]1[cH:17][cH:25][c:40]([N:12]([CH3:31])[CH3:32])[cH:30][cH:22]1)([c:4]1[cH:18][cH:26][c:41]([N:13]([CH3:33])[CH3:34])[cH:27][cH:19]1)[c:5]1[cH:20][cH:28][c:42]([N:14]([CH3:35])[CH3:36])[cH:29][cH:21]1", "epd": [["LP-/Sigma+", [37], [37, 38]], ["Pi-/Pi+", [38, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
